US05482974
A solution of 1.3M s-butyl lithium in cyclohexane (75 mL, 98 mmol) is added to a dry-ice/acetone cooled solution of TMEDA (9.67 g, 83 mmol) in THF (90 mL), maintaining the internal reaction temperature <-70° C. The reaction mixture is cooled and maintained at ≤-80° C. with an ether/liquid nitrogen bath while a solution of 2-chloro-4-fluorotoluene (10 g, 69 mmol) in THF (10 mL) is added dropwise. The resulting reaction mixture is stirred with dry-ice/acetone cooling for 1h, then is cannulated into an ether/liquid nitrogen cooled and mechanically stirred solution of DMF (25.1 g, 345 mmol) in THF (50 mL). The resulting mixture is warmed to -30° C. and partitioned between dilute aqueous HCl and ether. The organic solution is washed with aqueous NaHCO3, dried (MgSO4), and concentrated and triturated with hexanes to afford 2-fluoro-5-methyl-6-chlorobenzaldehyde as a crystalline solid.

reactant | s-butyl lithium | 1.3M | C(C)(CC)[Li]
reactant | cyclohexane | 98 mmol, 75 mL | C1CCCCC1 | C6H12
reactant | dry-ice acetone | C(=O)=O.CC(=O)C
reactant | TMEDA | 83 mmol, 9.67 g | CN(C)CCN(C)C | C6H16N2
reactant | 2-chloro-4-fluorotoluene | 69 mmol, 10 g | ClC1=C(C=CC(=C1)F)C | C7H6ClF
reactant | DMF | 345 mmol, 25.1 g | CN(C)C=O | C3H7NO
solvent | THF | 90 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2-fluoro-5-methyl-6-chlorobenzaldehyde | FC1=C(C=O)C(=C(C=C1)C)Cl | C8H6ClFO
